US07528129B2
10h) {(R)-1-(3-chloro-4-hydroxy-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl}-amide 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 7i from 70 mg (0.14 mmol) (R)-3-(3-chloro-4-hydroxy-5-methyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 27.4 mg (0.16 mmol) 1-(tetrahydropyran-4-yl)-piperazine.

reactant | (R)-3-(3-chloro-4-hydroxy-5-methyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.14 mmol, 70 mg | ClC=1C=C(C=C(C1O)C)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C25H29ClN4O5
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.16 mmol, 27.4 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | {(R)-1-(3-chloro-4-hydroxy-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl}-amide 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)[O-])C=CC=C2.ClC=2C=C(C[C@H](C(N1CCN(CC1)C1CCOCC1)=O)[NH-])C=C(C2O)C | InChI=1S/C19H27ClN3O3.C15H19N3O3/c1-13-10-14(11-16(20)18(13)24)12-17(21)19(25)23-6-4-22(5-7-23)15-2-8-26-9-3-15;19-14-16-13-4-2-1-3-11(13)5-10-18(14)12-6-8-17(9-7-12)15(20)21/h10-11,15,17,21,24H,2-9,12H2,1H3;1-4,12H,5-10H2,(H,16,19)(H,20,21)/q-1;/p-1/t17-;/m1./s1
